US09029545B2
3-Chloro-N-[3,6-dimethyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridin-4-yl]benzenesulfonamide
A mixture of ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-3,6-dimethyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate (Description 64) (150 mg, 0.306 mmol) in DMSO (5 mL) and aqueous NaOH (2M) (0.611 mL, 3.06 mmol) was heated at 150° C. for ca. 1.5 h. After cooling to RT, the mixture was diluted with water (20 mL), acidified with formic acid (ca. pH 4-5) and extracted with 10% MeOH in DCM (30 mL×5). The combined organics were dried and concentrated. The residue was passed through a C18 solid phase extractor cartridge, eluting with water (30 mL×4) and then with MeOH (30 mL×4) and the combined organics concentrated. The residue was taken-up in diphenyl ether (2 mL, 12.57 mmol) and DMSO (0.5 mL) and the mixture was heated at 200° C. for ca. 45 min. After cooling to RT, the mixture was purified by normal phase chromatography, eluting with a gradient of 0-100% ethyl acetate in cyclohexane and then with 0-20% MeOH in DCM and then further purified by MDAP (acidic conditions), to give the title compound (12 mg). LCMS (A) m/z: 419 [M+1]+, Rt 1.04 min (acidic).

reactant | ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-3,6-dimethyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate | 0.306 mmol, 150 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C)C=2C=NNC2 | C21H19ClN4O4S2
reactant | NaOH | 3.06 mmol, 2M, 0.611 mL | [OH-].[Na+]
reactant | formic acid | pH 4-5 | C(=O)O | CH2O2
reactant | diphenyl ether | 12.57 mmol, 2 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 3-Chloro-N-[3,6-dimethyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridin-4-yl]benzenesulfonamide | 12 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1)C)SC(=C2C)C=2C=NNC2 | C18H15ClN4O2S2
